US08084448B2
F. 5-[2-Benzyloxy-4-(6-benzyloxypyridin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-(6-benzyloxypyridin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (213 mg, 0.35 mmol) in DMF (3 mL) is added CsF (265 mg, 1.75 mmol). The reaction is stirred at 60° C. for 2 h. The reaction is allowed to cool to RT and the solvent is removed under reduced pressure. The crude cesium salt of the title compound is used in the next step without further purification: (M+H)+=516.

reactant | 5-[2-benzyloxy-4-(6-benzyloxypyridin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.35 mmol, 213 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=NC(=CC=C1)OCC1=CC=CC=C1)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C33H37N3O5SSi
reactant | CsF | 1.75 mmol, 265 mg | [F-].[Cs+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-[2-Benzyloxy-4-(6-benzyloxypyridin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=NC(=CC=C1)OCC1=CC=CC=C1)N1CC(NS1(=O)=O)=O | C28H25N3O5S
